US08383838B2
A suspension of sodiumhydride in parrafin (0.49 g, 60%) was added to 5 ml dimethylcarbonate. To this suspension 8-Fluoro-3,4-dihydro-2H-benzo[b]oxepin-5-one (6.2 mmol) dissolved in 2 ml dimethylcarbonate was added dropwise at room temperature. The mixture was refluxed for two hours, cooled to room temperature and stirred overnight. 25 ml of 2 mol/l hydrochloric acid were added to the mixture. The resulting solution was extracted by ethyl acetate. The organic phase was dried over sodiumsulfate and the solvent removed in vacuo. The residue was dissolved in diethyl ether. 8-Fluoro-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid methyl ester was obtained by crystallization from this solution in a yield of 7%. LC-MS: 1.8 min, 238.0 (MH+), 2.4 min, 238.0 (MH+)

reactant | sodiumhydride | [H-].[Na+]
reactant | 8-Fluoro-3,4-dihydro-2H-benzo[b]oxepin-5-one | 6.2 mmol | FC=1C=CC2=C(OCCCC2=O)C1 | C10H9FO2
reactant | hydrochloric acid | 2 mol/l, 25 ml | Cl | ClH
reactant | dimethylcarbonate | 2 ml | COC(OC)=O | C3H6O3
reactant | dimethylcarbonate | 5 ml | COC(OC)=O | C3H6O3
product | 8-Fluoro-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid methyl ester | yield of 7% | COC(=O)C1C(C2=C(OCC1)C=C(C=C2)F)=O | C12H11FO4
